US07674795B2
In a 50-ml three-necked flask under an argon atmosphere, dissolve 700 mg of 4-(6-methoxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one, obtained in stage 2 of Example 106, in 10 ml of dichloromethane, then add dropwise 5.35 ml of a 1M solution of boron tribromide in dichloromethane and stir for 20 hours at room temperature. Pour the reaction mixture into 50 ml of water. The precipitate that forms is drained and washed with water then with toluene and finally dried. After purification by silica gel flash chromatography, eluting with a mixture of dichloromethane and methanol (90-10 by volume), we obtain 363 mg of 4-(6-hydroxy-1H-benzimidazol-2-yl)-fluoren-9-one, in the form of a brown powder, with the following characteristics:

reactant | 4-(6-methoxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one | 700 mg | COC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=O)C1 | C21H14N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(6-hydroxy-1H-benzimidazol-2-yl)-fluoren-9-one | 363 mg | OC=1C=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=O)C1 | C20H12N2O2
